US08445509B2
Production of 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid
To a solution (9 mL) of methyl 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate (880 mg, 3.62 mmol) in methanol was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was adjusted to pH<7 with 1N hydrochloric acid and concentrated under reduced pressure. The precipitate was collected by filtration and washed with water to give the title compound (704 mg, 85%) as yellow crystals.

reactant | methyl 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 3.62 mmol, 9 mL, 880 mg | CC1=C(C=CC=C1)N1C(C(=CC=C1)C(=O)OC)=O | C14H13NO3
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-(2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 704 mg, 85% | CC1=C(C=CC=C1)N1C(C(=CC=C1)C(=O)O)=O | C13H11NO3
